US08980877B2
A suspension of (E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (300 mg, 0.74 mmol) in DCM (9 ml) was treated with TEA (0.17 ml, 1.2 mmol) and then with EDC (235 mg, 1.23 mmol), HOBt (166 mg, 1.23 mmol) and NH2OTHP (115 mg, 0.982 mmol) following the procedure described in Example 30, Step B, giving (E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (280 mg) as a light yellow solid.

reactant | (E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 0.74 mmol, 300 mg | FC1=CC=C(CN2CC3(C2)OC2=CC=C(C=C2C(C3)=O)/C=C/C(=O)O)C=C1 | C21H18FNO4
reactant | EDC | 1.23 mmol, 235 mg
reactant | HOBt | 1.23 mmol, 166 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 0.982 mmol, 115 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 9 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 280 mg | FC1=CC=C(CN2CC3(C2)OC2=CC=C(C=C2C(C3)=O)/C=C/C(=O)NOC3OCCCC3)C=C1 | C26H27FN2O5
